US07781478B2
6-Ethoxy-1H-indole-3-carbonitrile (2.8 g, 15 mmol), prepared as shown in example 1A, step A, is combined with Cs2CO3 (11.6 g, 35.6 mmol), DMF (21 mL), and cyclobutyl bromide (1.73 mL, 17.9 mmol) in a capped tube. The reaction mixture is heated at 80° C. for 8 h. This is then quenched with H2O (200 mL) and is extracted with EtOAc. The EtOAc layer is backwashed with H2O, and then with brine. The organic phase is dried and concentrated. Purification by silica gel chromatography (hexanes/CH2Cl2, 50-100%) yields 1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile (3.00 g, 83%) as a white solid.

reactant | 6-Ethoxy-1H-indole-3-carbonitrile | 15 mmol, 2.8 g | C(C)OC1=CC=C2C(=CNC2=C1)C#N | C11H10N2O
reactant | Cs2CO3 | 35.6 mmol, 11.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | cyclobutyl bromide | 17.9 mmol, 1.73 mL | C1(CCC1)Br | C4H7Br
solvent | DMF | 21 mL | CN(C)C=O | C3H7NO
product | 1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile | 3.00 g, 83% | C1(CCC1)N1C=C(C2=CC=C(C=C12)OCC)C#N | C15H16N2O
